US08536168B2
6-Chloro-2,3-dihydro-phthalazine-1,4-dione (Compound 26)
A mixture of 4-chlorophthalic anhydride (1.81 g, 10 mmol) and acetic acid (15 mL) was added to a solution of hydrazine hydrate (0.62 mL, 10 mmol) in acetic acid (2 mL). The resulting mixture was stirred at reflux for 2 h. The precipitate was collected and dried to give the title compound as a white solid (1.82 g, 95%).

reactant | 4-chlorophthalic anhydride | 10 mmol, 1.81 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | hydrazine hydrate | 10 mmol, 0.62 mL | O.NN
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 6-Chloro-2,3-dihydro-phthalazine-1,4-dione | 1.82 g, 95% | ClC=1C=C2C(NNC(C2=CC1)=O)=O | C8H5ClN2O2
